US08445490B2
methyl 4-(4-(4-(but-3-enyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (46 mg, 0.091 mmol) was dissolved in THF (2 mL). LiOH (10.94 mg, 0.457 mmol) and Water (2 mL) were added to the solution and the reaction was warmed to 60° C. for 16 h. The reaction was diluted with DCM and acidified with 1N HCl. The organic layer was collected, dried over sodium sulfate, and concentrated under vacuum to give 4-(4-(4-(but-3-enyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid (45 mg).

reactant | methyl 4-(4-(4-(but-3-enyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 0.091 mmol, 46 mg | C(CC=C)OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C24H24F3N5O4
reactant | LiOH | 0.457 mmol, 10.94 mg | [Li+].[OH-]
reactant | Water | 2 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(4-(4-(but-3-enyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid | 45 mg | C(CC=C)OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1 | C23H22F3N5O4
